### PR TITLE
[Merged by Bors] - feat: `a ≤ b / c → a * c ≤ b`

### PR DESCRIPTION
**Pull request by YaelDillies**
Match https://github.com/leanprover-community/mathlib/pull/18367

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -234,6 +234,13 @@ theorem div_le_of_nonneg_of_le_mul (hb : 0 ≤ b) (hc : 0 ≤ c) (h : a ≤ c *
   rwa [div_le_iff hb']
 #align div_le_of_nonneg_of_le_mul div_le_of_nonneg_of_le_mul
 
+/-- One direction of `div_le_iff` where `c` is allowed to be `0` (but `b` must be nonnegative) -/
+lemma mul_le_of_nonneg_of_le_div (hb : 0 ≤ b) (hc : 0 ≤ c) (h : a ≤ b / c) : a * c ≤ b := by
+  obtain rfl | hc := hc.eq_or_lt
+  { simpa using hb }
+  { rwa [le_div_iff hc] at h }
+#align mul_le_of_nonneg_of_le_div mul_le_of_nonneg_of_le_div
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Field/Basic.lean:242]: Mathport says
```suggestion
/-- One direction of `div_le_iff` where `c` is allowed to be `0` (but `b` must be nonnegative) -/
theorem mul_le_of_nonneg_of_le_div (hb : 0 ≤ b) (hc : 0 ≤ c) (h : a ≤ b / c) : a * c ≤ b := by
  obtain rfl | hc := hc.eq_or_lt
  · simpa using hb
  · rwa [le_div_iff hc] at h
#align mul_le_of_nonneg_of_le_div mul_le_of_nonneg_of_le_div
```

**Review by eric-wieser — APPROVED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
